US05786495
Synthesis of n-hexylmethylbis(9-fluorenyl)silane
n-Hexylmethyldichlorosilane (30.4 g, 0.152 mol) and 300 mL of dry THF were charged to a one liter Schlenk equipped with an addition funnel. Fluorene anion (52.4 g, 0.305 mol) was dissolved in approximately 200 mL of dry THF and charged to the addition funnel. The temperature of the stirring solution was lowered to -78° C. under positive nitrogen pressure. The fluorene anion was added dropwise over two hours. After the anion addition was complete, the reaction mixture was allowed to warm to room temperature. The solution was allowed to stir overnight. The solution was washed with three 200 mL aliquots of water, retaining the organic layer after each washing. The organic layer was dried with magnesium sulfate and filtered. The product was recrystallized from hexane. The yield of this reaction is 19.6%.

reactant | n-Hexylmethyldichlorosilane | 0.152 mol, 30.4 g | C(CCCCC)[Si](Cl)(Cl)C | C7H16Cl2Si
reactant | Fluorene | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
solvent | THF | approximately 200 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | n-hexylmethylbis(9-fluorenyl)silane | C(CCCCC)[Si](C1C2=CC=CC=C2C=2C=CC=CC12)(C1C2=CC=CC=C2C=2C=CC=CC12)C | C33H34Si
